US06555577B1
(E)-(S)-Ethyl 2-Ethoxy-3-[4-(3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-enyloxy)-phenyl]-propionate
The title compound (0.41 g, 80% yield) was prepared from (E)-3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-en-1-ol (0.30 g, 1.0 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.25 g, 1.05 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-en-1-ol | 1.0 mmol, 0.30 g | C1(=CC=CC=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C22H20O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 1.05 mmol, 0.25 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-[4-(3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-enyloxy)-phenyl]-propionate | 0.41 g, 80% yield | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C=1C=C(C=CC1)C1=CC=CC=C1 | C35H36O4
